US06518268B1
2-Fluoro-5-nitrobenzaldehyde (48 mg, 0.28 mmol) was dissolved in N,N-dimethylformamide (2.4 mL), and di-n-propylamine (0.15 mL, 1.1 mmol) and potassium carbonate (0.16 g, 1.1 mmol) were added thereto, followed by stirring at 25° C. for 1 hour. After the conventional post-reaction treatment, the residue was purified by silica gel chromatography(eluted with chloroform), to obtain 2-(N,N-di-n-propylamino)-5-nitrobenzaldehyde (49 mg, 69%).

reactant | 2-Fluoro-5-nitrobenzaldehyde | 0.28 mmol, 48 mg | FC1=C(C=O)C=C(C=C1)[N+](=O)[O-] | C7H4FNO3
reactant | di-n-propylamine | 1.1 mmol, 0.15 mL | C(CC)NCCC | C6H15N
reactant | potassium carbonate | 1.1 mmol, 0.16 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 2.4 mL | CN(C=O)C | C3H7NO
product | 2-(N,N-di-n-propylamino)-5-nitrobenzaldehyde | 49 mg, 69% | C(CC)N(CCC)C1=C(C=O)C=C(C=C1)[N+](=O)[O-] | C13H18N2O3
